US07049312B1
Synthesis of (Z)-2-[(Indol-3-yl)methylene]-2H-1,4-benzothiazin-3(4H)-one
A solution of 2H-1,4-benzothiazin-3(4H)-one (1.65 g, 10 mmol) and indole-3-carboxaldehyde (1.45 g, 10 mmol) in piperidine (30 ml) was heated under reflux for 5 days. The solvent was removed in vacuo, ethanol (20 ml) was added to the residue and the solid was filtered off. This solid was boiled in ethanol (20 ml) and filtered hot to give a yellow solid.

reactant | 2H-1,4-benzothiazin-3(4H)-one | 10 mmol, 1.65 g | S1CC(NC2=C1C=CC=C2)=O | C8H7NOS
reactant | indole-3-carboxaldehyde | 10 mmol, 1.45 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
solvent | piperidine | 30 ml | N1CCCCC1 | C5H11N
product | (Z)-2-[(Indol-3-yl)methylene]-2H-1,4-benzothiazin-3(4H)-one | N1C=C(C2=CC=CC=C12)\C=C\1/SC2=C(NC1=O)C=CC=C2 | C17H12N2OS
